data/mechanisms/records/IMS4-EQ4.16.json
{"mechanism_id": "IMS4-EQ4.16", "species": [{"species_id": "pentan_3_one_pi_ionized_molecular_ion", "mapped_smiles": "[CH3:1][CH2:2][C:3]([O+:4])[CH2:5][CH3:6]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "monovalent_oxygen_cation_c4h7o", "mapped_smiles": "[CH2:2]=[C:3]([O+:4])[CH2:5][CH3:6]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "methyl_radical", "mapped_smiles": "[CH3:1]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["pentan_3_one_pi_ionized_molecular_ion"]}, {"state_id": "state_products", "species_ids": ["monovalent_oxygen_cation_c4h7o", "methyl_radical"]}], "steps": [{"step_id": "step_disfavored_alpha_cleavage", "from_state": "state_precursor", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "atom", "atom_maps": [3]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "atom", "atom_maps": [1]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_4_16", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_disfavored_alpha_cleavage", "support_type": "contradicted", "locator": {"page": 59, "equation": "4.16", "figure": null, "panel": null, "section": "4.6 Radical-site initiation (alpha-cleavage)"}, "confidence": 0.85, "curator_note": "The book CROSSES OUT the reaction arrow of equation 4.16 (a large X is printed over it): allylic-type cleavage is disfavored at a carbonyl double bond because the product's resonance stabilization requires positive charge on a MONOVALENT oxygen, the partner canonical form being the extremely unstable alpha-acylcarbonium ion (Dommroese 1987); the trivalent oxonium (acylium) route of equation 4.14 wins. The printed abundance is '0.5% (C3H5O+ = 100%)', i.e. this C4H7O+ ion is 0.5% of the m/z 57 acylium base peak of 3-pentanone, hence status 'rejected' with relative_intensity 0.005. ARC COUNT: Book draws 2 arc(s); moves <1,2> are drawn - the arc from the C(1)-C(2) sigma bond into the C(2)-C(3) bond and the arc from the odd electron of the pi-ionized carbonyl into that same C(2)-C(3) bond (their two barbs are printed side by side between CH2 and C) - and move <3>, the sigma-bond electron that leaves with the methyl, is an implicit homolysis hook required for electron balance (not drawn on the page; the book simply writes CH3. among the products). LOCALIZATION NOTE (convention B/C): the page draws the ionized carbonyl with a SINGLE C-O bond and one '+.' superscript between C and O. Split for balance and to match the text, the odd electron sits on the carbonyl carbon C(3) (the arrow's origin) and the charge on the monovalent oxygen O(4); the product written here, CH2=C(C2H5)-O(+), is the canonical form the arrows actually produce and the one printed on the left of the book's resonance arrow, its partner (+)CH2-C(C2H5)=O being drawn on the right."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 86.0726, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_71", "species_id": "monovalent_oxygen_cation_c4h7o", "step_id": "step_disfavored_alpha_cleavage", "observed_mz": 71.0491, "relative_intensity": 0.005, "hydrogen_shift": 0, "isotope_offset": 0, "status": "rejected", "confidence": 0.6}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-23T00:00:00Z", "modified_at": "2026-07-23T00:00:00Z"}}
